US08114886B2
5-[[(4-Chlorophenyl)sulfonyl](2,3,6-trifluorophenyl)methyl]-N-(hydroxymethyl)-4-methylpyridine-2-carboxamide
To a solution of 5-[[(4-chlorophenyl)sulfonyl](2,3,6-trifluorophenyl)methyl]-4-methylpyridine-2-carboxamide (190 mg, 0.418 mmol) in ethylene glycol dimethyl ether (4 ml), an aqueous solution of formaldehyde (37%, 94.2 μl) and 1 N aqueous sodium hydroxide (21.0 μl) were added at room temperature, and the mixture was stirred for 17 hours. Ethyl acetate was added to the reaction mixture, and the mixture was washed with saturated aqueous ammonium chloride. Subsequently, 1 N hydrochloric acid was added to the organic layer, and the mixture was stirred for 1 hour. After the organic layer was separated, the organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and filtered, and then the filtrate was concentrated under reduced pressure. The resulting residue was subjected to flash silica gel chromatography, and the fraction obtained from an elution with hexane:ethyl acetate=1:1 was concentrated under reduced pressure. The resulting residue was washed with a mixed solvent of ethyl acetate and diethyl ether, and then was collected by filtration, to obtain the title compound (113 mg, 0.233 mmol, 56%) as a white solid.

reactant | 5-[[(4-chlorophenyl)sulfonyl](2,3,6-trifluorophenyl)methyl]-4-methylpyridine-2-carboxamide | 0.418 mmol, 190 mg | ClC1=CC=C(C=C1)S(=O)(=O)C(C=1C(=CC(=NC1)C(=O)N)C)C1=C(C(=CC=C1F)F)F | C20H14ClF3N2O3S
reactant | formaldehyde | 94.2 μl | C=O | CH2O
reactant | sodium hydroxide | 1 N, 21.0 μl | [OH-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethylene glycol dimethyl ether | 4 ml | COCCOC | C4H10O2
product | 5-[[(4-Chlorophenyl)sulfonyl](2,3,6-trifluorophenyl)methyl]-N-(hydroxymethyl)-4-methylpyridine-2-carboxamide | 0.233 mmol, 113 mg, 56% | ClC1=CC=C(C=C1)S(=O)(=O)C(C=1C(=CC(=NC1)C(=O)NCO)C)C1=C(C(=CC=C1F)F)F | C21H16ClF3N2O4S
